US04845293
Preparation of 2-(β-hydroxyethyl)amino-6-chloronitrobenzene (compound known by the formula III)
0.04 mole (7.7 g) of 2,6-dichloronitrobenzene in 30 ml of ethanolamine is heated for 8 hours at 70° C. The reaction mixture is poured onto ice, and then extracted with ethyl acetate. After washing and drying, the ethyl acetate phase is evaporated to dryness under vacuum. The dry extract is recrystallized from ethanol. The product obtained melts at 78° C. (literature value 78.5° C.).

reactant | 2,6-dichloronitrobenzene | 0.04 mole, 7.7 g | ClC1=C(C(=CC=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | ethanolamine | 30 ml | C(O)CN | C2H7NO
product | 2-(β-hydroxyethyl)amino-6-chloronitrobenzene | OCCNC1=C(C(=CC=C1)Cl)[N+](=O)[O-] | C8H9ClN2O3
